US08802659B2
6-(tert-butyldimethylsilyloxy)-2-naphthaldehyde
To a solution of (6-bromonaphthalen-2-yloxy)(tert-butyl)dimethylsilane (4 g, 0.01 mol, 1.0 equiv) in dry THF (30 mL) at −78° C. under N2 atmosphere was added n-BuLi (2.5 M, 12 mL, 3.0 equiv) dropwise and stirred for 30 min. Then DMF (7.3 g, 0.1 mol, 10 equiv) was added and stirred for another 1 h, then quenched with water, extracted with ethyl acetate and washed with brine, dried over Na2SO4 and concentrated to obtain crude product. The crude product was purified by silica gel chromatography (PE:EA=20:1) to give compound the title compound (2.2 g, 64%) as a yellow liquid. ESI-MS (M+1)+: 287.0. 1H NMR (400 MHz, CDCl3) δ: 10.10 (s, 1H), 8.26 (s, 1H), 7.91-7.88 (m, 2H), 7.78-7.76 (m, 1H), 7.24-7.16 (m, 2H), 1.03 (s, 9H), 0.28 (s, 6H).

reactant | (6-bromonaphthalen-2-yloxy)(tert-butyl)dimethylsilane | 0.01 mol, 4 g, 1.0 equiv | BrC=1C=C2C=CC(=CC2=CC1)O[Si](C)(C)C(C)(C)C | C16H21BrOSi
reactant | n-BuLi | 2.5 M, 12 mL, 3.0 equiv | [Li]CCCC
reactant | DMF | 0.1 mol, 7.3 g, 10 equiv | CN(C)C=O | C3H7NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-(tert-butyldimethylsilyloxy)-2-naphthaldehyde | 2.2 g, 64% | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)C=O | C17H22O2Si
